US09382288B2
1α-Azido-cholestane-2β,3β-diol
Variant 2: If 2.1 g 1,23-epoxy-cholestane-3β-ol are converted with NaN3 in dimethyl sulfoxide, 1.7 g of colorless crystals are obtained (from water/methanol) with a m.p. of 143-144° C.

reactant | 1,23-epoxy-cholestane-3β-ol | 2.1 g | O1C2C[C@@H](CC3CC[C@H]4[C@@H]5CC[C@H]([C@@H](CC1CC(C)C)C)[C@]5(CC[C@@H]4[C@@]23C)C)O | C27H46O2
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | water methanol | O.CO
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 1α-Azido-cholestane-2β,3β-diol | N(=[N+]=[N-])[C@H]1[C@@H]([C@@H](CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O)O | C27H47N3O2
